US06727264B1
7-(2-FLUOROPHENYL)-1H-INDOLE:
A mixture of 2-fluorophenylboronic acid (83.4 mg, 0.600 mmol), 7-bromo-1H-indole (98.0 mg, 0.500 mmol), LiCl (42.0 mg, 1.00 mmol), Na2CO3 (2.0 M, 0.100 mL), Pd(PPh3)4 (115 mg, 0.100 mmol) and DME (2.00 mL) was heated at 75° C. for 12 h under Argon. The resulting crude mixture was diluted with water (40 mL), the aqueous layer was extracted with CH2Cl2 (3×20 mL). The combined organic layers were washed with brine (30 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by preparative TLC using hexane:EtOAc (8:1) to give the desired product 7-(2-fluorophenyl)-1H-indole (108 mg, 100%): 1H NMR (400 MHz, CDCl3) 8.21 (br s, 1H), 7.71 (dm, 1H, J=7.3), 7.55 (dt, 1H, J=7.3, 1.6 Hz), 7.39 (m, 1H), 7.30-7.19 (m, 5H), 6.62 (dd, 1H, J=2.1-3.3 Hz); ESMS m/e: 211.9 (M+H)+.

reactant | 2-fluorophenylboronic acid | 0.600 mmol, 83.4 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | 7-bromo-1H-indole | 0.500 mmol, 98.0 mg | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | LiCl | 1.00 mmol, 42.0 mg | [Li+].[Cl-]
reactant | Na2CO3 | 2.0 M, 0.100 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 40 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.100 mmol, 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 2.00 mL | COCCOC | C4H10O2
product | 7-(2-fluorophenyl)-1H-indole | 108 mg, 100% | FC1=C(C=CC=C1)C=1C=CC=C2C=CNC12 | C14H10FN
